US06387919B1
8-(2,2-Dioxo-1,3-dihydro-benzo[c]thiophene-5-ylamino-methylene)-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one (Z-isomer)
The title compound was prepared in 37% yield from 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one and 2,2-dioxo-1,3-dihydrobenzo[c]thiophene-5-ylamine according to Procedure J: 1H NMR (DMSO-d6): δ 11.11 (d, 1H), 10.89 (s, 1H), 9.27 (s, 1H), 8.06 (d, 1H), 7.82 (d, 1H), 7.47 (m, 2H), 7.13 (d, 1H), 6.98 (d, 1H), 6.5 (m, 2H); APCI−MS m/z 384 (M+H)+.

reactant | 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one | C(C)OC=C1C(NC2=CC=C3N=CSC3=C12)=O | C12H10N2O2S
reactant | 2,2-dioxo-1,3-dihydrobenzo[c]thiophene-5-ylamine | O=S1(CC2=C(C1)C=C(C=C2)N)=O | C8H9NO2S
product | 8-(2,2-Dioxo-1,3-dihydro-benzo[c]thiophene-5-ylamino-methylene)-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one | 37% yield | O=S1(CC2=C(C1)C=C(C=C2)NC=C2C(NC1=CC=C3N=CSC3=C21)=O)=O | C18H13N3O3S2
